US05093363
To a solution of 100 ml of anhydrous tetrahydrofuran containing 12.13 g (0.0243 mol) of tert-butyl [(4R,6S)-6-[(tert-butyldiphenylsilyloxy)methyl]-2,2-dimethyl-1,3-dioxane-4-yl]acetate was added 26.75 ml (0.0268 mol) of the 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran with stirring at -15° C. and reacted for 2.5 hours at 0° to 5° C. The reaction solution was subjected to 120 g of silica gel column chromatography and eluted with ethyl acetate, and the eluate was collected and distilled away under reduced pressure. Again the residue was subjected to silica gel column chromatography and eluted [eluent: methylene chloride-acetonitrile (4:1)]. The first fraction was discarded and successive elution gave 5.52 g of tert-butyl [(4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxane-4-yl]acetate as syrups (yield: 87%).

reactant | tert-butyl [(4R,6S)-6-[(tert-butyldiphenylsilyloxy)methyl]-2,2-dimethyl-1,3-dioxane-4-yl]acetate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C29H42O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.0243 mol, 100 ml, 12.13 g | O1CCCC1 | C4H8O
product | tert-butyl [(4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxane-4-yl]acetate | 5.52 g, yield: 87% | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C13H24O5
